US07951954B2
c) (2-Hydroxy-benzyl)-[3-(2-hydroxy-ethyl)-benzyl]-carbamic acid tert-butyl ester
A solution of 2-{[3-(2-hydroxy-ethyl)-benzylamino]-methyl}-phenol (400 mg) in dichloromethane (15 mL) was treated with di-tert-butyl-dicarbonate (370 mg) and the solution was stirred at room temperature for 3 days. The solvent was evaporated under reduced pressure and the residue was purified on silica eluting with 40% ethyl acetate in isohexane to yield the sub-titled compound (500 mg).

reactant | 2-{[3-(2-hydroxy-ethyl)-benzylamino]-methyl}-phenol | 400 mg | OCCC=1C=C(CNCC2=C(C=CC=C2)O)C=CC1 | C16H19NO2
reactant | di-tert-butyl-dicarbonate | 370 mg | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | (2-Hydroxy-benzyl)-[3-(2-hydroxy-ethyl)-benzyl]-carbamic acid tert-butyl ester | 500 mg | C(C)(C)(C)OC(N(CC1=CC(=CC=C1)CCO)CC1=C(C=CC=C1)O)=O | C21H27NO4
